US05041679
9.86 Grams of methyl acetoacetate were dissolved in 15 ml of water, and 12.67 g of a 30% aqueous sodium hydroxide solution were added thereto by drops while cooling the mixture to 25° C. or less. After having been stirred at 30°-35° C. for 3 hours, the mixture was adjusted to pH 7.0 with a concentrated aqueous hydrochloric acid solution. Thereafter, 0.62 g of sodium acetate and 2.42 g of tetrabutylammonium bromide were added thereto and then an additional concentrated aqueous hydrochloric acid solution was added thereto so that the mixture had a pH of 6.9. Further, 27.4 g of a toluene solution containing 36.6% of 3-(3-fluorophenylthio)butanal were added thereto and the resulting mixture was stirred at 45°-50° C. for 9 hours. The organic layer separated from the mixture was washed with a 5% aqueous acetic acid solution and then with a saturated aqueous sodium chloride solution. Then it was dried over anhydrous magnesium sulfate. Removing the solvent from the layer under reduced pressure gave 12.49 g of crude-6-(3-fluorophenylthio)-4-hydroxy-2-heptanone (purity: 90.8%, yield: 87.4%). A purified product was obtained by column chromatography. The purified product had an nD21 of 1.5342.

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | 0.62 g | C(C)(=O)[O-].[Na+]
reactant | 3-(3-fluorophenylthio)butanal | FC=1C=C(C=CC1)SC(CC=O)C | C10H11FOS
solvent | water | 15 ml | O | H2O
catalyst | tetrabutylammonium bromide | 2.42 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | toluene | 27.4 g | C1(=CC=CC=C1)C | C7H8
product | 6-(3-fluorophenylthio)-4-hydroxy-2-heptanone | yield: 87.4% | FC=1C=C(C=CC1)SC(CC(CC(C)=O)O)C | C13H17FO2S
